US09303065B2
7A. Ethyl 5-phenyl-1,2,4-thiadiazole-3-carboxylate
A mixture of ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate (U.S. Publication No. 2005/0096362) (1.5 g, 8.56 mmol) and benzonitrile (4.37 ml, 42.8 mmol) in 1,2-dichlorobenzene (15.42 ml, 137 mmol) was heated to 160° C. for 4 days. The reaction was then cooled down to RT and the solvent was evaporated by heated the reaction at 75° C. at maximum vacuum. The residue was purified on silica gel chromatography (100% CH2Cl2 to 3% EtOAc in CH2Cl2) to provide the title material (0.064 g, 3%). LC (Method B): 2.021 min. HRMS (ESI) calcd for C11H11N2O2S [M+H]+ m/z 235.0541, found 235. 1H NMR (CDCl3, 400 MHz) δ ppm: 8.01-8.09 (m, 1H), 7.49-7.59 (m, 2H), 4.56 (q, J=7.17 Hz, 1H), 1.50 (t, J=7.24 Hz, 1H).

reactant | ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate | O=C1OC(=NS1)C(=O)OCC | C5H5NO4S
reactant | benzonitrile | 42.8 mmol, 4.37 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | 1,2-dichlorobenzene | 137 mmol, 15.42 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 5-phenyl-1,2,4-thiadiazole-3-carboxylate | 0.064 g, 3% | C1(=CC=CC=C1)C1=NC(=NS1)C(=O)OCC | C11H10N2O2S
